US04709039
2-(2-Vinylbenzyloxy-1-methylethyl)-2-oxazoline
In a three-neck round bottom flask, 45 g VBC (0.29 mole), 45 g HMEO (0.35 mole), 10 g heptane, and 4 g (t-Bu)4NHSO4 in 100 g THF solvent are added together as organic layers. 70 g NaOH aqueous solution prepared by dissolving 50 wt % of NaOH in H2O saturated with NaCl is added as the aqueous layer. The reaction is carried out at 35°-45° C. for 4 hours. The reaction medium turned deep purple upon agitation. GC analysis of the crude product indicated over 90% conversion. The purification procedure is the same as described above. Due to the high boiling point of SOx, an Aldrich Kugelrohr apparatus is used to distill at a bath temperature of 150° C. under 2-3 mmHg pressure. The distillate is a colorless liquid. The structure is identified by GC and NMR analysis. Thermal polymerization occurs during distillation and results in a crosslinked gel in the distillation flask.

reactant | HMEO | 0.35 mole, 45 g | C[C@@H]1CC2=CC(=O)CCC2C3C1C4CCC(C4(CC3)C)O | C19H28O2
reactant | heptane | 10 g | CCCCCCC | C7H16
reactant | (t-Bu)4NHSO4 | 4 g | [N+](C(C)(C)C)(C(C)(C)C)(C(C)(C)C)C(C)(C)C.[O-]S(=O)(=O)O
reactant | NaOH | 70 g | [OH-].[Na+]
solvent | THF | 100 g | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | NaCl | [Na+].[Cl-]
product | 2-(2-Vinylbenzyloxy-1-methylethyl)-2-oxazoline | C(=C)CC(C)(C=1OCCN1)OCC1=CC=CC=C1 | C15H19NO2
